US06537994B2
4-((2S)-2-Hydroxy-3-{2-[4-(3-nitro-pyridin-2-ylamino)-phenyl]-ethylamino}-propoxy)-phenol
N-[4-(2-Aminoethyl)phenyl]-3-nitro-2-pyridinamine (0.87 g, 3.37 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (1.36 g, 3.36 mmol) according to Procedure G (eluant: 20:1 going to 5:1 chloroform-methanol) to give the title compound (0.59 g, 0.21 mmol).

reactant | N-[4-(2-Aminoethyl)phenyl]-3-nitro-2-pyridinamine | 3.37 mmol, 0.87 g | NCCC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C13H14N4O2
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 3.36 mmol, 1.36 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-((2S)-2-Hydroxy-3-{2-[4-(3-nitro-pyridin-2-ylamino)-phenyl]-ethylamino}-propoxy)-phenol | 0.21 mmol, 0.59 g | O[C@H](COC1=CC=C(C=C1)O)CNCCC1=CC=C(C=C1)NC1=NC=CC=C1[N+](=O)[O-] | C22H24N4O5
